US07968552B2
Hydroxylamine hydrochloride and a sodium acetate aqueous solution were added to an ethanol solution of 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]benzaldehyde, followed by stirring at room temperature for 18 hours to obtain 4-[(4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzaldehyde oxime. Sodium cyanoborohydride was added to a methanol-THF mixed solution of the resulting 4-[(4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzaldehyde oxime, and then a 4 M hydrogen chloride dioxane solution was dropwise added thereto, followed by stirring at room temperature for 1 hour to obtain N-{4-[(4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzyl)hydroxylamine.

reactant | Sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 4-[(4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzaldehyde oxime | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C1=C(C=CC=C1C)C)COC1=CC=C(C=NO)C=C1 | C28H35NO3Si
reactant | hydrogen chloride dioxane | 4 M | O1CCOCC1.Cl
solvent | methanol THF | CO.C1CCOC1
product | N-{4-[(4-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzyl)hydroxylamine | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C1=C(C=CC=C1C)C)COC1=CC=C(CNO)C=C1 | C28H37NO3Si
